US09255110B2
A mixture of (E)-3-(3-amino-4-methoxy-phenyl)-prop-2-en-1-ol (250 mg) and palladium hydroxide on carbon (20%, 50 mg) in ethyl acetate (10 mL) was stirred under hydrogen atmosphere (balloon pressure) overnight. The resulting mixture was filtered over a CELITE™ pad, the filter cake was washed with dichloromethane and the filtrate was evaporated under reduced pressure to give 100 mg of 3-(3-amino-4-methoxy-phenyl)-propan-1-ol without further purifications.

reactant | (E)-3-(3-amino-4-methoxy-phenyl)-prop-2-en-1-ol | 250 mg | NC=1C=C(C=CC1OC)/C=C/CO | C10H13NO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 50 mg | [OH-].[OH-].[Pd+2]
product | 3-(3-amino-4-methoxy-phenyl)-propan-1-ol | 100 mg | NC=1C=C(C=CC1OC)CCCO | C10H15NO2
